US04357333
N-(1-Ethyl-3-piperidyl)-2-(8-trifluoromethyl-4-quinolylamino)benzamide
11.5 Grams (0.0285 Mole) of 2-(8-trifluoromethyl-4-quinolylamino)benzoic acid hydrochloride dihydrate were refluxed in 80 milliliters of thionyl chloride for half an hour. A yellow solid precipitated. The thionyl chloride was evaporated off. The resulting acid chloride hydrochloride was added in portions with stirring to a cooled mixture of 3.84 grams (0.03 moles) of 3-amino-1-ethylpiperidine in 100 milliliters of chloroform and 31.8 grams (0.3 mole) of sodium carbonate in 100 milliliters of water. The mixture was stirred for one hour and allowed to stand overnight. The chloroform layer was separated and dried and the chloroform evaporated to give a nearly colourless solid. Trituration with ether gave a colourless solid which was recrystallized from methanol to give 7.9 grams (63% yield) of title compound, melting point 212° to 213° C.

reactant | 2-(8-trifluoromethyl-4-quinolylamino)benzoic acid hydrochloride dihydrate | 0.0285 Mole | O.O.Cl.FC(C=1C=CC=C2C(=CC=NC12)NC1=C(C(=O)O)C=CC=C1)(F)F
reactant | 3-amino-1-ethylpiperidine | 0.03 moles, 3.84 grams | NC1CN(CCC1)CC | C7H16N2
reactant | sodium carbonate | 0.3 mole, 31.8 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | thionyl chloride | 80 milliliters | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 100 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 milliliters | O | H2O
product | N-(1-Ethyl-3-piperidyl)-2-(8-trifluoromethyl-4-quinolylamino)benzamide | 7.9 grams, 63% yield | C(C)N1CC(CCC1)NC(C1=C(C=CC=C1)NC1=CC=NC2=C(C=CC=C12)C(F)(F)F)=O | C24H25F3N4O
